US05585391
By conducting the procedure described in Example 1, except that the bis-(2-hydroxyethyl)amine is replaced by an equimolar quantity of bis-(2,3-dihydroxypropyl)amine and the methyl bromoacetate is replaced by an equimolar quantity of methyl 2-bromoisovalerate, there is obtained 2-[N,N-bis-(2,3-dihydroxypropyl)amino]isovaleric acid.

reactant | bis-(2-hydroxyethyl)amine | OCCNCCO | C4H11NO2
reactant | bis-(2,3-dihydroxypropyl)amine | OC(CNCC(CO)O)CO | C6H15NO4
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | methyl 2-bromoisovalerate | BrC(C(=O)OC)C(C)C | C6H11BrO2
product | 2-[N,N-bis-(2,3-dihydroxypropyl)amino]isovaleric acid | OC(CN(CC(CO)O)C(C(=O)O)C(C)C)CO | C11H23NO6
